US05128355
Part C: Preparation of 2-butyl-4-chloro-5-hydroxymethyl-1-[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)methyl]imidazole
1-[(2'-(Triphenylmethyltetrazol-5-yl)-biphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole (920 g), and methanol (2.10 L) were charged to a 12-liter round-bottomed flask, equipped with mechanical stirrer, condenser with N2 inlet and thermometer. The slurry was cooled to ~10° C. and 3.4 N hydrochloric acid (700 ml) was added over 10 minutes. After stirring two hours at 10°-20°C., the thick slurry was diluted with methanol (500 ml) and warmed to 30° C. After one hour at 30° C., the reaction was neutralized to pH 13 with 10 N sodium hydroxide (420 ml). Solvent (largely methanol, 2.3 L) was distilled while 2.3 L D.I. water was added. Heating was discontinued and D.I. water (700 ml) and toluene (1.40 L) was added. After cooling to ~30° C., the organic phase was removed. The aqueous phase was reextracted with toluene (700 ml). Ethyl acetate (1.20 L) was added to the pot containing the aqueous phase. After stirring 10 minutes, acetic acid (130 ml) was added. The mixture was stirred one hour, then let stand overnight. Agitation was restarted and the slurry cooled to ~5° C. The product was isolated by vacuum filtration, reslurried with 1.50 L D.I. water and sucked semi-dry. The wet cake was charged to a 12 L round bottomed flask and reslurried 1/2 hour at ambient temperature with ethyl acetate (4.0 L). The product was isolated by vacuum filtration, washed with 200 ml ethyl acetate and dried in vacuo overnight at 50° C. Yield: 518 g, 88.5%. M.P.: 184°185° C. Purity by HPLC: 98.8%.

reactant | 1-[(2'-(Triphenylmethyltetrazol-5-yl)-biphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 920 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C41H37ClN6O
reactant | hydrochloric acid | 3.4 N, 700 ml | Cl | ClH
reactant | sodium hydroxide | 10 N, 420 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 2.10 L | CO | CH4O
solvent | ethyl acetate | 4.0 L | C(C)(=O)OCC | C4H8O2
product | 2-butyl-4-chloro-5-hydroxymethyl-1-[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)methyl]imidazole | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H23ClN6O
